.suckt  symmetrical_op_amp_4221 ibias in1 in2 out source_nmos source_pmos
M1 out2fs in1 net_0 net_0 pmos W=25e-6 L=1e-6
M2 inoutputtc in2 net_0 net_0 pmos W=25e-6 L=1e-6
M3 out1fs out1fs source_nmos source_nmos nmos W=2e-6 L=1e-6
M4 out2fs out2fs out1fs out1fs nmos W=2e-6 L=1e-6
M5 insourcetc insourcetc source_nmos source_nmos nmos W=1e-6 L=1e-6
M6 inoutputtc inoutputtc insourcetc insourcetc nmos W=1e-6 L=1e-6
M7 net_1 bias_p_1b source_pmos source_pmos pmos W=1e-6 L=1e-6
M8 net_0 ibias net_1 net_1 pmos W=1e-6 L=1e-6
M9 net_4 insourcestagebias source_pmos source_pmos pmos W=1e-6 L=1e-6
M10 out inoutputstagebias net_4 net_4 pmos W=1e-6 L=1e-6
M11 net_5 out1fs source_nmos source_nmos nmos W=2e-6 L=1e-6
M12 out out2fs net_5 net_5 nmos W=2e-6 L=1e-6
M13 net_6 insourcetc source_nmos source_nmos nmos W=1e-6 L=1e-6
M14 inoutputstagebias inoutputtc net_6 net_6 nmos W=1e-6 L=1e-6
M15 insourcestagebias insourcestagebias source_pmos source_pmos pmos W=1e-6 L=1e-6
M16 inoutputstagebias inoutputstagebias insourcestagebias insourcestagebias pmos W=1e-6 L=1e-6
M17 bias_p_1b bias_p_1b source_pmos source_pmos pmos W=1e-6 L=1e-6
M18 ibias ibias bias_p_1b bias_p_1b pmos W=1e-6 L=1e-6
Cap_load_1 out source_nmos
.end symmetrical_op_amp_4221
