.suckt  symmetrical_op_amp_4225 ibias in1 in2 out source_nmos source_pmos
M1 out2fs in1 net_0 net_0 pmos W=25e-6 L=1e-6
M2 inoutputtc in2 net_0 net_0 pmos W=25e-6 L=1e-6
M3 out1fs out1fs source_nmos source_nmos nmos W=2e-6 L=1e-6
M4 out2fs out2fs out1fs out1fs nmos W=2e-6 L=1e-6
M5 insourcetc insourcetc source_nmos source_nmos nmos W=1e-6 L=1e-6
M6 inoutputtc inoutputtc insourcetc insourcetc nmos W=1e-6 L=1e-6
M7 net_1 bias_p_1b source_pmos source_pmos pmos W=1e-6 L=1e-6
M8 net_0 ibias net_1 net_1 pmos W=1e-6 L=1e-6
M9 insourcestagebias insourcestagebias source_pmos source_pmos pmos W=1e-6 L=1e-6
M10 out inoutputstagebias insourcestagebias insourcestagebias pmos W=1e-6 L=1e-6
M11 net_4 out1fs source_nmos source_nmos nmos W=2e-6 L=1e-6
M12 out out2fs net_4 net_4 nmos W=2e-6 L=1e-6
M13 net_5 insourcetc source_nmos source_nmos nmos W=1e-6 L=1e-6
M14 inoutputstagebias inoutputtc net_5 net_5 nmos W=1e-6 L=1e-6
M15 net_6 insourcestagebias source_pmos source_pmos pmos W=1e-6 L=1e-6
M16 inoutputstagebias inoutputstagebias net_6 net_6 pmos W=1e-6 L=1e-6
M17 bias_p_1b bias_p_1b source_pmos source_pmos pmos W=1e-6 L=1e-6
M18 ibias ibias bias_p_1b bias_p_1b pmos W=1e-6 L=1e-6
Cap_load_1 out source_nmos
.end symmetrical_op_amp_4225
